US08471005B2
4-[1-(3-Nitro-phenyl)-piperidin-4-yl]-morpholine (1.60 g, 0.00549 mol) was dissolved in Methanol (45 mL) and the solution was carefully added to Palladium on Carbon 10% (90.10, carbon black. Palladium, 0.750 g) in a Parr vessel under nitrogen. The mixture was then placed on a Parr hydrogenator and was allowed to shake until uptake of hydrogen had ceased (˜3 hours). The catalyst was then removed via filtration and the filtrate was reduced to afford 615 mg of 3-(4-Morpholin-4-yl-piperidin-1-yl)-phenylamine without further purification. 1H NMR (400 MHz, DMSO, d6) δ 6.81 (t, 1H, J=7.88 Hz), 6.14 (m, 1H), 6.11 (m, 1H), 6.00 (m, 1H), 4.80 (s, 2H), 3.57 (m, 6H), 2.46 (m, 5H), 1.82 (m, 2H), 1.43 (m, 2H).

reactant | 4-[1-(3-Nitro-phenyl)-piperidin-4-yl]-morpholine | 0.00549 mol, 1.60 g | [N+](=O)([O-])C=1C=C(C=CC1)N1CCC(CC1)N1CCOCC1 | C15H21N3O3
reactant | hydrogen | [H][H] | H2
solvent | Methanol | 45 mL | CO | CH4O
catalyst | Palladium on Carbon | 0.750 g | [Pd] | Pd
product | 3-(4-Morpholin-4-yl-piperidin-1-yl)-phenylamine | 615 mg | N1(CCOCC1)C1CCN(CC1)C=1C=C(C=CC1)N | C15H23N3O
